US04450169
A mixture of 4.5 g of 3-chloromethyl-5-phenoxy-(1,2,4)-thiadiazole, 3.7 g of (1R,3R) 2,2-dimethyl-3-(2-methyl-1-propenyl)-cyclopropane-1-carboxylic acid, 50 ml of methyl ethyl ketone, 3.2 g of potassium carbonate and 0.1 gof 1,4,7,10,13,16-hexaoxacyclooctadecane was refluxed for 18 hours and was cooled and filtered. The filtrate was evaporated to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution withbenzene yielded 2.2 g of [5-phenoxy-(1,2,4)-thiadiazol-3-yl]-methyl (1R,3R)2,2-dimethyl-3-(2-methyl-1-propenyl)-cyclopropane-1-carboxylate.

reactant | 3-chloromethyl-5-phenoxy-(1,2,4)-thiadiazole | 4.5 g | ClCC1=NSC(=N1)OC1=CC=CC=C1 | C9H7ClN2OS
reactant | (1R,3R) 2,2-dimethyl-3-(2-methyl-1-propenyl)-cyclopropane-1-carboxylic acid | 3.7 g | CC1([C@@H]([C@H]1C=C(C)C)C(=O)O)C | C10H16O2
reactant | potassium carbonate | 3.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | [5-phenoxy-(1,2,4)-thiadiazol-3-yl]-methyl (1R,3R)2,2-dimethyl-3-(2-methyl-1-propenyl)-cyclopropane-1-carboxylate | 2.2 g | CC1([C@@H]([C@H]1C=C(C)C)C(=O)OCC1=NSC(=N1)OC1=CC=CC=C1)C | C19H22N2O3S
